US05639778
(6-Dipropylamino-1,5,6,7-tetrahydro-1-aza-s-indacen-3-yl)-phenyl methanone (12 g, Chart 2).
A mixture of dipropyl-(1,5,6,7-tetrahydro-1-aza-s-indacen-6-yl)amine (31 mg, 0.12 mmol) N,N-dimethylbenzamide (36 mg, 0.24 mmol) and phosphorous oxychloride (14 μL, 23 mg, 0.15 mmol) was heated at 85° C. overnight. After cooling, 3M sodium hydroxide (4 mL) was added and the resulting mixture was heated at 85° C. for 1 hour. The mixture was cooled and extracted (ethyl acetate) three times. The organic solution was dried (magnesium sulfate), filtered and evaporated to yield 46 mg (100%) of the desired material.: MS m/z (relative intensity, 70 eV) 360 (M+, 12), 331 (100), 105 (38), 260 (31).

reactant | dipropyl-(1,5,6,7-tetrahydro-1-aza-s-indacen-6-yl)amine | 0.12 mmol, 31 mg | C(CC)N(C1CC=2C=C3C=CNC3=CC2C1)CCC | C17H24N2
reactant | phosphorous oxychloride | 0.15 mmol, 14 μL, 23 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 3M, 4 mL | [OH-].[Na+]
product | (6-Dipropylamino-1,5,6,7-tetrahydro-1-aza-s-indacen-3-yl)-phenyl methanone | 46 mg, 100% | C(CC)N(C1CC=2C=C3C(=CNC3=CC2C1)C(=O)C1=CC=CC=C1)CCC | C24H28N2O
